US09260408B2
3-Bromo-5-((S)-2-methoxymethyl-pyrrolidin-1-yl)-pyridine
In analogy to the procedure described for the preparation of intermediate A-3 [B], (S)-2-methoxymethyl-pyrrolidine was reacted with 3,5-dibromopyridine in the presence of Pd2(dba)3, rac-BINAP and sodium tert-butoxide to give the title compound as a yellow oil. MS: 271.1, 273.1 (M+H+).

reactant | (S)-2-methoxymethyl-pyrrolidine | COC[C@H]1NCCC1 | C6H13NO
reactant | 3,5-dibromopyridine | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | rac-BINAP | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | CC(C)([O-])C.[Na+]
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-Bromo-5-((S)-2-methoxymethyl-pyrrolidin-1-yl)-pyridine | BrC=1C=NC=C(C1)N1[C@@H](CCC1)COC | C11H15BrN2O
